US08686046B2
4-(3-methoxyphenoxy)benzaldehyde (27)
To a solution of p-fluorobenzaldehyde (1.6 mmol, 0.2 g) in dimethylformamide (8 mLs) was added 3-methoxyphenol (3.52 mmol, 0.437 g) and cesium carbonate (3.52 mmol, 1.15 g). The reaction was heated to 90° C. for 3 hours at which time it was cooled to room temperature and filtered through a fritted funnel. The reaction mixture was diluted with 125 mL of ethyl acetate and extracted with eight 15 mL portions of water and one 10 mL portion of brine. The organic layer was dried with magnesium sulfate and evaporated to dryness. The crude oil was purified by flash chromatography to recover 0.365 g (1.6 mmol) of the title product. 1H NMR (300 MHz, CDCl3) δ 9.92 (s, 1H), 7.84 (d, J=8.7, 2H), 7.29 (dd, J=5.7, 13.9, 1H), 7.07 (d, J=8.7, 2H), 6.76 (d, J=8.3, 1H), 6.72-6.57 (m, 2H), 3.80 (s, 3H). 13C NMR (75 MHz, CDCl3) δ 190.99, 163.25, 161.38, 156.42, 132.15, 130.76, 117.91, 112.63, 110.81, 106.59, 55.66.

reactant | p-fluorobenzaldehyde | 1.6 mmol, 0.2 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 3-methoxyphenol | 3.52 mmol, 0.437 g | COC=1C=C(C=CC1)O | C7H8O2
reactant | cesium carbonate | 3.52 mmol, 1.15 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 8 mLs | CN(C=O)C | C3H7NO
product | 4-(3-methoxyphenoxy)benzaldehyde | 1.6 mmol, 0.365 g | COC=1C=C(OC2=CC=C(C=O)C=C2)C=CC1 | C14H12O3
